US05703071
Hinokitiol (20 g, 0.12 mol) and potassium hydroxide (8 g, 0.12 mol) were dissolved in water (80 ml), and 37% Formalin (12 ml, 0.16 mmol) was added thereto. The reaction solution was heated at 100° C. for 5 hours while stirring. The reaction solution was neutralized with 6N HCl, then the reaction product was extracted with dichloromethane. The extract was dried over sodium sulfate, then concentrated under reduced pressure. The residue was dissolved in acetone (200 ml), potassium carbonate (34 g, 0.25 mol) and dimethyl sulfate (16 ml, 0.16 mol) were added thereto, and the solution was heated and refluxed for an hour with stirring. The precipitate was removed by filtration, and filtrate was concentrated under reduced pressure. The filtration residue was washed with dichloromethane. The resultant was washed with water and dried over sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography [(eluent: hexane/ethyl acetate (1:4)] to give 18.5 g of 7-hydroxymethyl-4-isopropyl-2-methyoxy-2,4,6-cycloheptatrien-1-one as a pale yellow oil (yield, 74%). This oil was solidified when allowed to stand at room temperature. 1H NMR (CDCl3) δ(ppm) 1.29 (d, 6H, 6.9 Hz), 2.89 (qui, 1H, J=6.9 Hz), 3.97 (s, 3H), 4.67 (s, 2H), 6.77 (s, 1H), 6.84 (d, 1H, J=9.2 Hz), 7.44 (d, 1H, J=9.2 Hz).

reactant | Hinokitiol | 0.12 mol, 20 g | CC(C)C1=CC=CC(=O)C(=C1)O | C10H12O2
reactant | potassium hydroxide | 0.12 mol, 8 g | [OH-].[K+]
reactant | HCl | 6N | Cl | ClH
reactant | potassium carbonate | 0.25 mol, 34 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 0.16 mol, 16 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 80 ml | O | H2O
catalyst | Formalin | 0.16 mmol, 12 ml | C=O | CH2O
product | 7-hydroxymethyl-4-isopropyl-2-methyoxy-2,4,6-cycloheptatrien-1-one | 18.5 g | OCC1=CC=C(C=C(C1=O)OC)C(C)C | C12H16O3
